US05064863
For the preparation of the amine starting material of Example 10f, α-methyl-2-thiophenethanol, acetyl chloride and aluminum chloride were reacted in methylene chloride to give (RS)-2-(5-acetyl-2-thienyl)-1-methylethyl acetate. The resulting acetate was saponified with sodium hydroxide in methanol to give 5-[(RS)-2-hydroxypropyl]-2-thienyl methyl ketone which was subsequently reacted with p-toluenesulfonyl chloride to give (RS)-2-(5-acetyl-2-thienyl)-1-methylethyl-p-toluenesulfonate, m.p. 101°-103°. With sodium azide in dimethylsulfoxide there was obtained therefrom 5-[(RS)-2-azidopropyl]-2-thienyl methyl ketone which was oxidized with bromine in sodium hydroxide solution to give 5-[(RS)-2-azidopropyl]-2-thiophenecarboxylic acid. With thionyl chloride, there was obtained therefrom the corresponding acid chloride and from this there was prepared with ammonia 5-[(RS)-2-azidopropyl]-2-thiophenecarboxamide, m.p. 79°-80° C., from diethyl ether. Treatment with triphenylphosphine and hydrolysis gave 5-[(RS)-2-aminopropyl]-2-thiophenecarboxamide, m.p. 91°-92° from acetonitrile.

reactant | 5-[(RS)-2-azidopropyl]-2-thienyl methyl ketone | CC(=O)C=1SC(=CC1)CC(C)N=[N+]=[N-] | C9H11N3OS
reactant | bromine | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-[(RS)-2-azidopropyl]-2-thiophenecarboxylic acid | N(=[N+]=[N-])C(CC1=CC=C(S1)C(=O)O)C | C8H9N3O2S
